US08389766B2
To a solution of 3-amino-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-2,4,5-trifluoro-benzamide (32.8 g, 71 mmol) (Example I14) and trifluoro-acetic acid (237 ml) in chloroform (118 ml) was added drop-wise aqueous hydrogen peroxide (67 ml) (35% w/v). The reaction mixture was kept at approximately 50° C. with external cooling. The reaction mixture was stirred at 55° C. for 30 minutes, then poured onto a mixture of ice and water. The mixture was extracted twice with dichloromethane. The combined organic phases were washed with aqueous sodium hydrogen carbonate (1M), dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: cyclohexane/ethyl acetate 7:3) to give N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-3-nitro-2,4,5-trifluoro-benzamide (23.94 g, 68.5% yield). 1H-NMR (400 MHz, CDCl3): 2.35 (6H, s), 7.38 (2H, s), 7.68 (1H, d), 8.25 (1H, m) ppm.

reactant | 3-amino-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-2,4,5-trifluoro-benzamide | 71 mmol, 32.8 g | NC=1C(=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)C)C=C(C1F)F)F | C18H12F10N2O
reactant | trifluoro-acetic acid | 237 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen peroxide | 67 ml | OO | H2O2
reactant | water | O | H2O
solvent | chloroform | 118 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-3-nitro-2,4,5-trifluoro-benzamide | 23.94 g, 68.5% yield | CC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C)NC(C1=C(C(=C(C(=C1)F)F)[N+](=O)[O-])F)=O | C18H10F10N2O3
